US07132426B2
Step 1: Preparation of 7-chloro-3-(4-methanesulfonyl-phenyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine.
To a solution of (6-chloro-5-nitro-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine in dichloromethane (8 mL) and 50% aqueous acetic acid (6 mL) was added sodium nitrite (64.6 mg, 0.937 mmol) in water (1 mL) dropwise at room temperature. After the addition was complete, the reaction was stirred for additional 15 minutes at room temperature. The organic layer was then separated, washed with water, and dried over anhydrous magnesium sulfate. Filtration followed by removal of volatiles under high vacuum afforded the desired product as a yellow solid (205 mg, 77.8%).

reactant | (6-chloro-5-nitro-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C11H9ClN4O4S
reactant | sodium nitrite | 0.937 mmol, 64.6 mg | N(=O)[O-].[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | 7-chloro-3-(4-methanesulfonyl-phenyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 205 mg, 77.8% | ClC=1C2=C(N=CN1)N(N=N2)C2=CC=C(C=C2)S(=O)(=O)C | C11H8ClN5O2S
